US07781438B2
Preparation of 7-Chloro-2-methyl-8-nitro-quinoxaline
At room temperature, 2-oxo-propionaldehyde (40% aqueous solution, 3.03 ml, 20.15 mmol, 1.0 equiv) was added to a solution of 4-chloro-3-nitro-benzene-1,2-diamine (3.78 g, 20.15 mmol) in THF (600 ml) and aqueous HCl (5N, 9.5 ml). The mixture was warmed to 65° C. for 10 minutes, then it was concentrated to approximately 200 ml and extracted with EtOAc. The combined organic layers were washed with dilute aqueous NaHCO3 solution and brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (gradient of hexane/EtOAc 9:1 to 7:3) to afford the title compound (3.86 g, 81%, 92:8 mixture of 7-chloro-2-methyl-8-nitro-quinoxaline and 6-chloro-2-methyl-5-nitro-quinoxaline). 1H NMR (400 MHz, CDCl3): δ=8.81 (s, 1H), 8.15 (d, J=9.1 Hz, 1H), 7.74 (d, J=9.1 Hz, 1H), 2.79 (s, 3H). MS (ES+): 224 (M+H)+.

reactant | 2-oxo-propionaldehyde | 20.15 mmol, 3.03 ml, 1.0 equiv | O=C(C=O)C | C3H4O2
reactant | 4-chloro-3-nitro-benzene-1,2-diamine | 20.15 mmol, 3.78 g | ClC=1C(=C(C(=CC1)N)N)[N+](=O)[O-] | C6H6ClN3O2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | HCl | 5N, 9.5 ml | Cl | ClH
product | 7-Chloro-2-methyl-8-nitro-quinoxaline | 3.86 g, 81% | ClC1=CC=C2N=CC(=NC2=C1[N+](=O)[O-])C | C9H6ClN3O2
